US04166131
2-isopropyl-5-indanacetic acid
2-isopropyl-α-oxo-5-indanacetic acid is reduced in a manner analogous to that described in Example 4, by reaction with potassium hydroxide and hydrazine hydrate. The title compound has an M.P. of 83°-86°.

reactant | 2-isopropyl-α-oxo-5-indanacetic acid | C(C)(C)C1CC2=CC=C(C=C2C1)C(C(=O)O)=O | C14H16O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrazine hydrate | O.NN
product | 2-isopropyl-5-indanacetic acid | C(C)(C)C1CC2=CC=C(C=C2C1)CC(=O)O | C14H18O2
